Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
latex
 
Attending: ___.
 
Chief Complaint:
elevated BP
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ G11P5 at 32w4d with h/o chronic HTN. Was seen in 
___ clinic today where was found to have severe range BP 167/91, 
rpt 164/97. Asx at that time. Nonreactive NST, ___ BPP, -2 for 
fetal breathing. Recommended presentation to triage for 
monitoring and consideration of admission but pt declined given 
responsibilities at home with other children.

On arrival to triage, pt asx. Took 60 mg of CR nifedipine this 
afternoon. Denies h/a, vision changes, RUQ. Denies ctx, VB, LOF.

 
Past Medical History:
PNC: 
- ___ ___ by LMP c/w ___ tri US
- A+/Ab-/RI/RPRNR/HIV-/HBsAg-/GBS not yet done
- s/p flu shot, TDaP
- LR NIPT
- FFS with limited views, f/u normal
- Normal GLT
- U/S ___ (20%ile)
- Issues: 
*) Chronic HTN: - baseline HELLP labs and EKG wnl, Pr/Cr 0.1,
declined baseline 24h urine collection; nifed increased today to
60CR QD from 30CR QD
*) Hypothyroid (s/p thyroidectomy for graves disease) with
hypoparathyroidism post op (followed by Dr. ___
Endocrinology). Elevated TSI Ab. ___ labs: TSH 3.4, vitamin 
D 10. Levoxyl to 312.5 mcg daily on ___ and vit D.
*) h/o 4 c-sections: s/p anesthesia c/s ___. For rpt cesarean
delivery on ___.
*) Obesity (BMI 43): passed GLT at 28weeks
*) Depression, h/o DV in past: declines SW or Psych referral

PObHx: G11P5
- ___ C/S for NRFHT, 8#5
- ___ VBAC, 7#14
- ___ Rpt C/S, 8#9
- ___ Rpt C/S, 8#9
- ___ rLTCS 7#6
- SAB x2, TAB x3

Denies h/o pre-eclampsia or GDM in prior pregnancies.

GynHx:
- LMP ___, regular monthly cycles, +dysmenorrhea
- denies h/o fibroids/cysts/endometriosis
- denies h/o STIs
- history of ASCUS pap in ___, intervening paps negative, most
recent ___ NILM with negative HR HPV
- contraception: was using condoms when she conceived, in the
past has used pills, DMPA, IUD

Past Medical History:
- Grave's disease s/p total thyroidectomy, on levothyroxine
replacement, followed by Dr. ___ in Endocrinology
- chronic HTN
- depression/anxiety, on sertraline, has seen therapist in past
but not currently
- asthma, uses albuterol inhaler when needed, usually ___ 
weekly,
more frequent recently with change in season 
- obesity, BMI 41, was in the process of being evaluated by
bariatric service for possible weight loss surgery prior to
discovering pregnancy

Past Surgical History:
- c-section x 4
- thyroidectomy and reimplantation of parathyroid glands

 
Social History:
denies t/e/d. H/o DV in past, screen neg today
 
Physical Exam:
Admission Exam
Vitals: T 98.1 HR 90 RR 20 BP 167/91, 153/72, 124/69, 119/52
General: NARD, comfortable
Abdomen: Soft, gravid, Nontender
Ext: Trace pedal edema, no pitting
SVE: Deferred

FHT: 145 mod var no accels, one small variable decel, rapid
return to baseline
Toco: flat

TAUS: breech, AFI 12.4, BPP ___

DISCHARGE EXAM
AVSS
General: NARD, comfortable
Abdomen: Soft, gravid, Nontender
Ext: Trace pedal edema, no pitting
SVE: Deferred

 
Pertinent Results:
___ 11:02PM URINE  pH-7 HOURS-24 VOLUME-1400 CREAT-85 TOT 
PROT-11 PROT/CREA-0.1
___ 11:02PM URINE  24Creat-1190 24Prot-154
___ 09:00PM URINE  HOURS-RANDOM CREAT-103 TOT PROT-11 
PROT/CREA-0.1
___ 03:00PM   UREA N-8 CREAT-0.7
___ 03:00PM   estGFR-Using this
___ 03:00PM   ALT(SGPT)-7 AST(SGOT)-14
___ 03:00PM   URIC ACID-4.4
___ 03:00PM   TSH-0.53
___ 03:00PM   TSH-0.53
___ 03:00PM   WBC-10.1 RBC-4.60 HGB-12.5 HCT-36.1 MCV-79* 
MCH-27.2 MCHC-34.6 RDW-14.0
___ 03:00PM   PLT COUNT-255
___ 03:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
 
Brief Hospital Course:
___ G11P5 with chronic hypertension who was admitted to 
antepartum on ___ at 32w 4d with labile blood pressures for 
rule out superimposed preeclampsia. She was continued on the 
nifedipine 30mg CR BID and her 24 hour urine which had 154mg 
protein. She was beta complete on ___. On ___, she a 
non-reactive NST and went on to have a formal BPP which was ___. 
Her BPs were in the mild range throughout her admission. She was 
discharged home in stable condition with outpatient follow up 
scheduled.

 
Medications on Admission:
- nifedipine increased today from 30 -> 60 CR daily
- levothyroxine 312 mcg daily every day 
- calcium/Vit D
- albuterol inhaler PRN

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of breath 
2. Levothyroxine Sodium 300 mcg PO DAILY 
3. NIFEdipine CR 30 mg PO BID 
4. Prenatal Vitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chronic hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with elevated blood pressures. 
Your urine collection indicated that you do not have 
preeclampsia. It is now safe for you to be discharged home.

 
Followup Instructions:
___